.SUBCKT NE555 1 2 3 4 5 6 7 8
* Pinout: 1=GND 2=TRIG 3=OUT 4=RESET 5=CONT 6=THRES 7=DISCH 8=VCC
R1 8 5 5k
R2 5 13 5k
R3 13 1 5k
Q1 11 13 12 12 NMOD
Q2 11 5 14 14 NMOD
R4 8 11 5k
R5 8 12 5k
R6 8 14 5k
E1 20 1 12 1 1
E2 21 1 14 1 1
Rref 20 22 1k
Cref 22 1 10p
E3 23 1 21 1 1
S1 6 22 30 1 SMOD
S2 2 22 31 1 SMOD
R7 22 30 100Meg
R8 22 31 100Meg
E4 30 1 20 22 1000
E5 31 1 22 23 1000
* SR Latch Output Stage
E_latch 40 1 31 30 1
R_latch 40 41 1k
C_latch 41 1 1n
E_out 3 1 41 1 1
* Discharge Transistor
Q_disch 7 41 1 1 NMOD
.MODEL NMOD NPN
.MODEL SMOD VSWITCH(RON=1 ROFF=100Meg VON=1m VOFF=0)
.ENDS NE555
