* MAX31865 RTD-to-Digital Converter SPICE Model
* Maxim Integrated (Analog Devices)
* Behavioral model for circuit simulation
* Model version: 1.3 (Fixed RAND function)
* Date: 2024
*
* This model represents the MAX31865 RTD-to-digital converter
* Suitable for ngspice and KiCad simulation

***************************************************************************
* Main Subcircuit: MAX31865
***************************************************************************
.subckt MAX31865
+ DRDY DVDD VDD BIAS
+ REFIN+ REFIN- ISENSOR
+ FORCE+ FORCE2 RTDIN+ RTDIN- FORCE-
+ GND2 SDI SCLK CS SDO DGND GND1 NC

***************************************************************************
* Power Supply Monitoring and Power-On Reset
***************************************************************************
* VDD monitoring
B_VDD_MON N_VDD_OK GND1 V={ (V(VDD,GND1)>2.0) * (V(VDD,GND1)<4.0) ? 1 : 0 }
R_VDD_MON N_VDD_OK GND1 100k

* DVDD monitoring
B_DVDD_MON N_DVDD_OK GND1 V={ (V(DVDD,DGND)>2.0) * (V(DVDD,DGND)<4.0) ? 1 : 0 }
R_DVDD_MON N_DVDD_OK GND1 100k

* Power-on reset (Latch)
B_POR_RAW N_POR_RAW GND1 V={V(VDD,GND1)<2.0 ? 0 : (V(VDD,GND1)>2.27 ? 1 : V(N_POR,GND1))}
R_POR_SER N_POR_RAW N_POR 1k
C_POR N_POR GND1 1u
R_POR N_POR GND1 1MEG

* Overall power good signal
B_PWR_GOOD N_PWR_GOOD GND1 V={ (V(N_VDD_OK,GND1)>0.5) * (V(N_DVDD_OK,GND1)>0.5) * (V(N_POR,GND1)>0.5) ? 1 : 0 }
R_PWR_GOOD N_PWR_GOOD GND1 100k

***************************************************************************
* Bias Voltage Generator
***************************************************************************
* Bias voltage reference
B_VBIAS_REF N_VBIAS_REF GND1 V={V(N_PWR_GOOD,GND1)>0.5 ? 2.0 : 0}
R_VBIAS_REF N_VBIAS_REF GND1 1MEG

* Startup delay (10ms)
C_VBIAS_START N_VBIAS_DELAYED GND1 1u
R_VBIAS_START N_VBIAS_REF N_VBIAS_DELAYED 10k

* Bias voltage output
B_VBIAS BIAS N_VBIAS_SENSE V={V(N_VBIAS_DELAYED,GND1)}
R_VBIAS_SENSE N_VBIAS_SENSE GND1 1

* Load regulation
R_VBIAS_OUT N_VBIAS_SENSE GND1 30

* Output current limit
B_VBIAS_ILIM BIAS N_VBIAS_LIM I={LIMIT(V(BIAS,GND1)/100, -5.75m, 5.75m)}
R_VBIAS_LIM N_VBIAS_LIM GND1 100

***************************************************************************
* Input Protection
***************************************************************************
* FORCE+ protection
B_PROT_FP N_PROT_FP GND1 V={ (V(FORCE+,GND1)>V(VDD,GND1)+0.1) ? 0 : ( (V(FORCE+,GND1)<-0.4) ? 0 : 1 ) }
R_PROT_FP N_PROT_FP GND1 100k

* FORCE2 protection
B_PROT_F2 N_PROT_F2 GND1 V={ (V(FORCE2,GND1)>V(VDD,GND1)+0.1) ? 0 : ( (V(FORCE2,GND1)<-0.4) ? 0 : 1 ) }
R_PROT_F2 N_PROT_F2 GND1 100k

* RTDIN+ protection
B_PROT_RP N_PROT_RP GND1 V={ (V(RTDIN+,GND1)>V(VDD,GND1)+0.1) ? 0 : ( (V(RTDIN+,GND1)<-0.4) ? 0 : 1 ) }
R_PROT_RP N_PROT_RP GND1 100k

* RTDIN- protection
B_PROT_RN N_PROT_RN GND1 V={ (V(RTDIN-,GND1)>V(VDD,GND1)+0.1) ? 0 : ( (V(RTDIN-,GND1)<-0.4) ? 0 : 1 ) }
R_PROT_RN N_PROT_RN GND1 100k

* FORCE- protection
B_PROT_FN N_PROT_FN GND1 V={ (V(FORCE-,GND1)>V(VDD,GND1)+0.1) ? 0 : ( (V(FORCE-,GND1)<-0.4) ? 0 : 1 ) }
R_PROT_FN N_PROT_FN GND1 100k

* Overall protection fault status
B_OV_UV_FAULT N_OV_UV_FAULT GND1 V={ ( (V(N_PROT_FP,GND1)<0.5) + (V(N_PROT_F2,GND1)<0.5) + (V(N_PROT_RP,GND1)<0.5) + (V(N_PROT_RN,GND1)<0.5) + (V(N_PROT_FN,GND1)<0.5) ) ? 1 : 0 }
R_OV_UV_FAULT N_OV_UV_FAULT GND1 100k

***************************************************************************
* Reference Resistor Current Path
***************************************************************************
R_ISENSOR_REF ISENSOR REFIN- 0.001

***************************************************************************
* 15-Bit Delta-Sigma ADC
***************************************************************************
* ADC input voltages
B_ADC_INP N_ADC_INP GND1 V={V(N_PROT_RP,GND1)>0.5 ? V(RTDIN+,GND1) : 0}
B_ADC_INN N_ADC_INN GND1 V={V(N_PROT_RN,GND1)>0.5 ? V(RTDIN-,GND1) : 0}
R_ADC_INP N_ADC_INP GND1 1MEG
R_ADC_INN N_ADC_INN GND1 1MEG

* ADC reference voltages
B_ADC_REFP N_ADC_REFP GND1 V={V(REFIN+,GND1)}
B_ADC_REFN N_ADC_REFN GND1 V={V(REFIN-,GND1)}
R_ADC_REFP N_ADC_REFP GND1 1MEG
R_ADC_REFN N_ADC_REFN GND1 1MEG

* Differential input voltage
B_ADC_DIFF N_ADC_DIFF GND1 V={V(N_ADC_INP,GND1) - V(N_ADC_INN,GND1)}
R_ADC_DIFF N_ADC_DIFF GND1 1MEG

* Differential reference voltage
B_ADC_VREF N_ADC_VREF GND1 V={V(N_ADC_REFP,GND1) - V(N_ADC_REFN,GND1)}
R_ADC_VREF N_ADC_VREF GND1 1MEG

* Ratiometric ADC code
B_ADC_RAW N_ADC_RAW GND1 V={LIMIT(32768 * V(N_ADC_DIFF,GND1) / MAX(V(N_ADC_VREF,GND1), 0.1), 0, 32767)}
R_ADC_RAW N_ADC_RAW GND1 1MEG

* ADC noise (Disabled)
B_ADC_NOISE N_ADC_NOISE GND1 V=0
R_ADC_NOISE N_ADC_NOISE GND1 1MEG

* Final ADC code
B_ADC_CODE N_ADC_CODE GND1 V={LIMIT(V(N_ADC_RAW,GND1) + V(N_ADC_NOISE,GND1), 0, 32767)}
R_ADC_CODE N_ADC_CODE GND1 1MEG

* ADC offset error
B_ADC_OFFSET N_ADC_OFFSET GND1 V={1}
R_ADC_OFFSET N_ADC_OFFSET GND1 1MEG

* Final ADC result
B_ADC_RESULT N_ADC_RESULT GND1 V={V(N_ADC_CODE,GND1) + V(N_ADC_OFFSET,GND1)}
R_ADC_RESULT N_ADC_RESULT GND1 1MEG

***************************************************************************
* Fault Detection
***************************************************************************
* High threshold fault
B_FAULT_HIGH N_FAULT_HIGH GND1 V={V(N_ADC_RESULT,GND1) >= 29490 ? 1 : 0}
R_FAULT_HIGH N_FAULT_HIGH GND1 100k

* Low threshold fault
B_FAULT_LOW N_FAULT_LOW GND1 V={V(N_ADC_RESULT,GND1) <= 3277 ? 1 : 0}
R_FAULT_LOW N_FAULT_LOW GND1 100k

* REFIN- voltage check
B_FAULT_REFIN_HIGH N_FAULT_REFIN_HIGH GND1 V={V(REFIN-,GND1) > 0.85*V(BIAS,GND1) ? 1 : 0}
R_FAULT_REFIN_HIGH N_FAULT_REFIN_HIGH GND1 100k

* Overall fault status
B_FAULT_STATUS N_FAULT_STATUS GND1 V={ ( (V(N_FAULT_HIGH,GND1)>0.5) + (V(N_FAULT_LOW,GND1)>0.5) + (V(N_FAULT_REFIN_HIGH,GND1)>0.5) + (V(N_OV_UV_FAULT,GND1)>0.5) ) ? 1 : 0 }
R_FAULT_STATUS N_FAULT_STATUS GND1 100k

***************************************************************************
* Conversion Control and DRDY
***************************************************************************
* Conversion timer (52ms)
C_CONV N_CONV_TIMER GND1 52m
R_CONV_CHARGE VDD N_CONV_TIMER 1k

* DRDY output logic
B_DRDY_LOGIC N_DRDY_LOGIC GND1 V={ V(N_PWR_GOOD,GND1)<0.5 ? 1 : (V(N_CONV_TIMER,GND1)>2.5 ? 0 : 1) }
R_DRDY_LOGIC N_DRDY_LOGIC GND1 100k

* DRDY output (push-pull)
B_DRDY DRDY GND1 V={V(N_DRDY_LOGIC,GND1)>0.5 ? V(DVDD,DGND) : 0}
R_DRDY DRDY GND1 100

***************************************************************************
* SPI Interface (Simplified)
***************************************************************************
* CS input detection
B_CS_DET N_CS_ACTIVE GND1 V={V(CS,DGND)<0.3*V(DVDD,DGND) ? 1 : 0}
R_CS_DET N_CS_ACTIVE GND1 100k

* SDO output control
B_SDO_CTRL N_SDO_CTRL GND1 V={V(N_CS_ACTIVE,GND1)>0.5 ? 0.5*V(DVDD,DGND) : 0}
R_SDO_CTRL N_SDO_CTRL GND1 1MEG

* SDO output (tri-state)
S_SDO SDO N_SDO_DRIVE N_CS_ACTIVE GND1 SW_SDO
B_SDO_DRIVE N_SDO_DRIVE DGND V={V(N_SDO_CTRL,GND1)}
R_SDO_DRIVE N_SDO_DRIVE DGND 100

* SDO output capacitance
C_SDO SDO DGND 6p

***************************************************************************
* Supply Current Consumption
***************************************************************************
* VDD current
B_IDD_ANALOG VDD N_IDD_ANALOG I={ (V(N_PWR_GOOD,GND1)<0.5 ? 1.5m : (V(N_CONV_TIMER,GND1)>2.5 ? 2.5m : 2m)) + (V(N_ADC_DIFF,GND1) > V(N_ADC_VREF,GND1) ? 400u : 0) }
R_IDD_ANALOG N_IDD_ANALOG GND1 1

* DVDD current
B_IDD_DIGITAL DVDD N_IDD_DIGITAL I={V(N_CS_ACTIVE,GND1)>0.5 ? 500u : 100u}
R_IDD_DIGITAL N_IDD_DIGITAL DGND 1

***************************************************************************
* Input Leakage Currents
***************************************************************************
R_LEAK_RTDINP RTDIN+ GND1 500MEG
R_LEAK_RTDINN RTDIN- GND1 500MEG
R_LEAK_FORCEP FORCE+ GND1 500MEG
R_LEAK_FORCE2 FORCE2 GND1 500MEG
R_LEAK_FORCEN FORCE- GND1 500MEG

***************************************************************************
* Ground Connections
***************************************************************************
R_GND1_GND2 GND1 GND2 0.001

.ends MAX31865

* Models
.model SW_SDO SW(Ron=100 Roff=10Meg Vt=0.5 Vh=0.2)